US08754209B2
To a stirred solution of 6-(4-(3-(trifluoromethyl)benzamido)phenyl)-1H-indazole-3-carboxylic acid (26 mg, 61 μmol), methyl amine hydrochloride (6.2 mg, 92 μmol), HOBt (12 mg, 92 μmol), and triethylamine (43 μl, 0.3 mmol) in N,N-dimethylformamide (0.6 Ml), was added EDCI (18 mg, 92 μmol). After the mixture was stirred at 70° C. for 12 h, the mixture was cooled to room temperature, and ethyl acetate and saturated sodium bicarbonate solution were added. The aqueous layer was extracted with ethyl acetate and the combined organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated in ethyl acetate/hexane to give N-methyl-6-(4-(3-(trifluoromethyl)benzamido)phenyl)-1H-indazole-3-carboxamide (20 mg).

reactant | 6-(4-(3-(trifluoromethyl)benzamido)phenyl)-1H-indazole-3-carboxylic acid | 61 μmol, 26 mg | FC(C=1C=C(C(=O)NC2=CC=C(C=C2)C2=CC=C3C(=NNC3=C2)C(=O)O)C=CC1)(F)F | C22H14F3N3O3
reactant | methyl amine hydrochloride | 92 μmol, 6.2 mg | Cl.CN
reactant | HOBt | 92 μmol, 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.3 mmol, 43 μl | C(C)N(CC)CC | C6H15N
reactant | EDCI | 92 μmol, 18 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-6-(4-(3-(trifluoromethyl)benzamido)phenyl)-1H-indazole-3-carboxamide | 20 mg | CNC(=O)C1=NNC2=CC(=CC=C12)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C23H17F3N4O2
